US05498609
To a solution of 7-chloro-5-(2-aminoethyl)-1-[6-(2-chlorobenzoyl-amino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.5 g) in methanol (20 ml) is added 37% formalin (1.4 ml), and thereto is added sodium cyanoborohydride (0.2 g), and further thereto is added with stirring acetic acid (0.9 ml) at 10° C., and the mixture is stirred at room temperature for 3 hours. The mixture is poured into ice-water, and the mixture is made basic with potassium carbonate, and the mixture is extracted with dichloromethane. The extract is washed with water, dried over magnesium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography to give 7-chloro-5-(2-dimethylaminoethyl)-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.37 g) as colorless amorphous.

reactant | 7-chloro-5-(2-aminoethyl)-1-[6-(2-chlorobenzoyl-amino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.5 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O)CCN)C1 | C25H24Cl2N4O2
reactant | formalin | 1.4 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 0.2 g | C(#N)[BH3-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 20 ml | CO | CH4O
solvent | acetic acid | 0.9 ml | C(C)(=O)O | C2H4O2
product | 7-chloro-5-(2-dimethylaminoethyl)-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.37 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O)CCN(C)C)C1 | C27H28Cl2N4O2
